US06162574
The preferable novolak resin may be a novolak resin obtained from phenol and formaldehyde, a novolak resin obtained from m-cresol and formaldehyde; a novolak resin obtained from p-cresol and formaldehyde, a novolak resin obtained from o-cresol and formaldehyde, a novolak resin obtained from octylphenol and formaldehyde, a novolak resin obtained from m-/p- mixed cresol and formaldehyde, a novolak resin obtained from a mixture of phenol/cresol (any of m-, p-, o- or m-/p-, m-/o-, o-/p-) and formaldehyde, and the like.

reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | formaldehyde | C=O | CH2O
product | phenol cresol | C1(=CC=CC=C1)O.C1(=CC=CC=C1O)C | InChI=1S/C7H8O.C6H6O/c1-6-4-2-3-5-7(6)8;7-6-4-2-1-3-5-6/h2-5,8H,1H3;1-5,7H
